US09290465B2
To a solution of (3-{4-[(Z)-2-(4-Methanesulfonyl-phenyl)-vinyl]-phenyl}-isoxazol-4-yl)-carbamic acid tert-butyl ester (220 mg, 0.5 mmol) in CH2Cl2 (2 mL) was added triethylamine (0.7 mL, 5 mmol) and 2-nitrobenzenesulfhydrazide (1.0 g, 4.6 mmol). The reaction mixture was stirred for 24 h at rt and then washed with satd NaHCO3 and dried over Na2SO4. Filtration was followed by removal of volatiles over silica gel followed by column chromatography to yield (3-{4-[2-(4-methanesulfonyl-phenyl)-ethyl]-phenyl}-isoxazol-4-yl)-carbamic acid tert-butyl ester (88 mg, 40%) as a white solid.

reactant | (3-{4-[(Z)-2-(4-Methanesulfonyl-phenyl)-vinyl]-phenyl}-isoxazol-4-yl)-carbamic acid tert-butyl ester | 0.5 mmol, 220 mg | C(C)(C)(C)OC(NC=1C(=NOC1)C1=CC=C(C=C1)\C=C/C1=CC=C(C=C1)S(=O)(=O)C)=O | C23H24N2O5S
reactant | triethylamine | 5 mmol, 0.7 mL | C(C)N(CC)CC | C6H15N
solvent | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
product | (3-{4-[2-(4-methanesulfonyl-phenyl)-ethyl]-phenyl}-isoxazol-4-yl)-carbamic acid tert-butyl ester | 88 mg, 40% | C(C)(C)(C)OC(NC=1C(=NOC1)C1=CC=C(C=C1)CCC1=CC=C(C=C1)S(=O)(=O)C)=O | C23H26N2O5S
